US07858632B2
To a solution of 2-bromopropene (5.4 ml, 59 mmol) in 200 mL DME was added Pd(Ph3P)4 (3.116, 2.8 mmol). After 30 min 6-methoxy-2,3-dihydro-benzo[1,4]dioxin-5-yl-boronic acid (13.320 g, 58.6 mmol) and K2CO3 (8.099 g, 58.6 mmol) was added. The mixture was warmed to reflux. After 16 hours the mixture was cooled, filtered through a pad of celite and concentrated in vacuo. The residue was dissolved in H2O and extracted with ethyl acetate. The combined organics were washed with saturated NaHCO3, dried over MgSO4, filtered and concentrated in vacuo. Purification via flash chromatography afforded isoprene 5-isopropenyl-6-methoxy-2,3-dihydro-benzo[1,4]dioxine (5.542 g, as an inseparable mixture of product/sm 1:1) as an oil.

reactant | 2-bromopropene | 59 mmol, 5.4 ml | BrC(=C)C | C3H5Br
reactant | 6-methoxy-2,3-dihydro-benzo[1,4]dioxin-5-yl-boronic acid | 58.6 mmol, 13.320 g | COC1=C(C2=C(OCCO2)C=C1)B(O)O | C9H11BO5
reactant | K2CO3 | 58.6 mmol, 8.099 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 200 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 2.8 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | isoprene 5-isopropenyl-6-methoxy-2,3-dihydro-benzo[1,4]dioxine | C(=C)(C)C1=C(C=CC=2OCCOC21)OC.C=CC(C)=C | InChI=1S/C12H14O3.C5H8/c1-8(2)11-9(13-3)4-5-10-12(11)15-7-6-14-10;1-4-5(2)3/h4-5H,1,6-7H2,2-3H3;4H,1-2H2,3H3
